US05580883
To a solution of N-(3-nitrophenyl)piperidine (12 g) in methanol (50 ml) was added conc. hydrochloric acid (12 ml) and, by using 10% palladium/carbon as a catalyst, catalytic reduction was conducted at normal temperature under normal pressure. After completion of the reaction, the catalyst was removed and the solvent was distilled off. Ethyl ether was added to the residue and the mixture was filtered off to obtain N-(3-aminophenyl)piperidine dihydrochloride (13.2 g) as a colorless solid.

reactant | N-(3-nitrophenyl)piperidine | 12 g | [N+](=O)([O-])C=1C=C(C=CC1)N1CCCCC1 | C11H14N2O2
reactant | hydrochloric acid | 12 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium/carbon | [Pd] | Pd
product | N-(3-aminophenyl)piperidine dihydrochloride | 13.2 g | Cl.Cl.NC=1C=C(C=CC1)N1CCCCC1 | InChI=1S/C11H16N2.2ClH/c12-10-5-4-6-11(9-10)13-7-2-1-3-8-13;;/h4-6,9H,1-3,7-8,12H2;2*1H
